US05162362
N-(1-Carboethoxy-3-aminopropyl)-L-alanyl-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid
1.1 g of N-(1-carboethoxy-3-benzoxycarbonylaminopropyl)-L-alanyl-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid are dissolved in 150 ml of methanol and are hydrogenated in the presence of 100 mg of palladium/active charcoal (10% strength) at 40° C. under normal pressure. After the end of the reaction, the solution is filtered off from the catalyst and the solvent is stripped off in vacuo.

reactant | N-(1-carboethoxy-3-benzoxycarbonylaminopropyl)-L-alanyl-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 1.1 g | C(=O)(OCC)C(CCNC(=O)OCC1=CC=CC=C1)N[C@@H](C)C(=O)C1NC(CC2=CC=CC=C12)C(=O)O | C27H33N3O7
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium | 100 mg | [Pd] | Pd
product | N-(1-Carboethoxy-3-aminopropyl)-L-alanyl-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | C(=O)(OCC)C(CCN)N[C@@H](C)C(=O)C1NC(CC2=CC=CC=C12)C(=O)O | C19H27N3O5
